US05633279
The oil product from Example ZC-1B, 6-(1,3-dihydro-6-methoxy -7-methyl-3-oxo-4-p-toluenesulfonyloxy-5-isobenzofuranyl)-3-hydroxy -4-methylhexa-1,4-diene, was dissolved in methylene chloride (20 mL) and 4A molecular sieves (2 g) were added. With vigorous stirring, pyridinium dichromate (2 g) was added and the reaction allowed to proceed for 3 hours. The mixture was then filtered through a celite filled fritted funnel capped with silica gel. Solvent removal was followed by flash chromatography (hexanes/methylene chloride/ether, 4/4/1) to provide the solid product 6-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy -5-isobenzofuranyl)-4-methylhexa-1,4-dien-3-one (0.45 g), which was carried on without further purification.

reactant | 6-(1,3-dihydro-6-methoxy -7-methyl-3-oxo-4-p-toluenesulfonyloxy-5-isobenzofuranyl)-3-hydroxy -4-methylhexa-1,4-diene | COC1=C(C(=C2C(OCC2=C1C)=O)OS(=O)(=O)C1=CC=C(C=C1)C)CC=C(C(C=C)O)C | C24H26O7S
reactant | pyridinium dichromate | 2 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy -5-isobenzofuranyl)-4-methylhexa-1,4-dien-3-one | 0.45 g | COC1=C(C(=C2C(OCC2=C1C)=O)OS(=O)(=O)C1=CC=C(C=C1)C)CC=C(C(C=C)=O)C | C24H24O7S
